US04208426
(1) 7-Hydroxy-2,8-dimethyl-2-propyl-4-chromanone
To the mixture of 19.8 g. of 2-methyl resorcinol and 50 ml of boron trifluoride-ethyl ether complex were added dropwise 30 g. of 3-methyl-2-hexenoyl chloride with stirring at 45° C. for about 30 minutes. After stirring for 2 hours at about 60° C., the reaction mixture was poured into ice water, and extracted with ether. After washing with water, the ether layer was extracted with 5% aqueous solution of sodium hydroxide. After acidification with hydrochloric acid, the aqueous solution of sodium hydroxide was extracted with ether. The ether layer was washed with water, and dried over magnesium sulfate. The product was purified by subjecting to column chromatography filled with silica gel to obtain 26.1 g. (yield: 69.7%) of the subject compound as oily product.

reactant | 2-methyl resorcinol | CC1=C(O)C=CC=C1O | C7H8O2
reactant | 3-methyl-2-hexenoyl chloride | CC(=CC(=O)Cl)CCC | C7H11ClO
product | 7-Hydroxy-2,8-dimethyl-2-propyl-4-chromanone | yield: 69.7% | OC1=CC=C2C(CC(OC2=C1C)(CCC)C)=O | C14H18O3
